US06982325B1
Measurement Method of Aurone Synthase Activity
The reaction was started by adding 5 μl of THC, having an absorbance of 462 at 366 nm in ethanol, to 50 μl of 1 M sodium acetate buffer (pH 5.0) and 350 μl of crude enzyme solution diluted with water. After allowing to react for 1 hour at 30° C., and adding 100 μl of an aqueous solution of 90% (v/v) acetonitrile containing 1% (v/v) TFA to stop the reaction, activity was measured by HPLC. The crude enzyme solution in each purification step described later in Example 4 was measured.

reactant | THC | 5 μl | CCCCCC=1C=C(C2=C(C1)OC([C@H]3[C@H]2C=C(CC3)C)(C)C)O | C21H30O2
reactant | sodium acetate | 1 M, 50 μl, pH 5.0 | C(C)(=O)[O-].[Na+]
reactant | acetonitrile | C(C)#N | C2H3N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | Aurone | C1=CC=C(C=C1)/C=C\2/C(=O)C3=CC=CC=C3O2 | C15H10O2
